US04572791
A mixture of 2.0 grams trioctylsilane and 10 grams 1-octene in 5 milliliters of toluene was reacted for 2 hours at 75°-80° C. in the presence of 0.009 gram of chlorotris(triphenylphosphine)rhodium(I) to yield 80 weight percent tetraoctylsilane.

reactant | trioctylsilane | 2.0 grams | C(CCCCCCC)[SiH](CCCCCCCC)CCCCCCCC | C24H52Si
reactant | 1-octene | 10 grams | C=CCCCCCC | C8H16
solvent | toluene | 5 milliliters | C1(=CC=CC=C1)C | C7H8
catalyst | chlorotris(triphenylphosphine)rhodium(I) | 0.009 gram | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | tetraoctylsilane | C(CCCCCCC)[Si](CCCCCCCC)(CCCCCCCC)CCCCCCCC | C32H68Si
